US07915443B2
(S)-5-[(4-acetylphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that describe in Example 434 a mixture of (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 4-iodoacetophenone were reacted to give the title compound as a light yellow foam (52 mg, 86%).

reactant | (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | C(#C)C=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C15H12N2O2S
reactant | 4-iodoacetophenone | CC(=O)C1=CC=C(C=C1)I | C8H7IO
product | (S)-5-[(4-acetylphenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 52 mg, 86% | C(C)(=O)C1=CC=C(C=C1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C23H18N2O3S
